US06166006
To a solution of ethyl 7-(4-ethoxyphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate (447.8 mg) in ethanol (20 ml) was added 2N sodium hydroxide (2.0 ml) at room temperature, and the mixture was stirred for 20 hours and concentrated under reduced pressure. To the residue was added 1N hydrochloric acid (5 ml), and the mixture was extracted with ethyl acetate and concentrated. The resulting crystal was collected by filtration to give 7-(4-ethoxyphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid (380 mg) as colorless crystals.

reactant | ethyl 7-(4-ethoxyphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 447.8 mg | C(C)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C21H22O4
reactant | sodium hydroxide | 2N, 2.0 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 7-(4-ethoxyphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid | 380 mg | C(C)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)O)C1 | C19H18O4
